US07902373B2
6-(3-Fluorophenyl)-N-(1-{9-[1-(hydroxymethyl)propyl]-9H-purin-6-yl}piperidin-4-yl)nicotinamide
6-(3-fluorophenyl)-N-(piperidin-4-yl)nicotinamide (2.0 g, 5.37 mmol) and 2-(6-chloro-9H-purin-9-yl)butan-1-ol (1.58 g, 6.98 mmol) were placed in a flask along with 10 mL of butanol, 10 mL of water and 10 mL of triethylamine. The mixture was heated to 85° C. for 2 hours. The reaction mixture was partitioned between ethyl acetate and brine. The ethyl acetate was washed 3× with brine and then dried over MgSO4, filtered and concentrated. The residue was purified by chromatography (silica, 1.5% EtOH/EtOAc) to give the desired racemic product (Example 88, 1.34 g, 57%). The material was purified by chiral chromatography-SFC (50% iPrOH in CO2, AD-H 30×250 mm col) to give the two peaks (enantiomeric pair)

reactant | 6-(3-fluorophenyl)-N-(piperidin-4-yl)nicotinamide | 5.37 mmol, 2.0 g | FC=1C=C(C=CC1)C1=NC=C(C(=O)NC2CCNCC2)C=C1 | C17H18FN3O
reactant | 2-(6-chloro-9H-purin-9-yl)butan-1-ol | 6.98 mmol, 1.58 g | ClC1=C2N=CN(C2=NC=N1)C(CO)CC | C9H11ClN4O
reactant | butanol | 10 mL | C(CCC)O | C4H10O
reactant | water | 10 mL | O | H2O
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
product | 6-(3-Fluorophenyl)-N-(1-{9-[1-(hydroxymethyl)propyl]-9H-purin-6-yl}piperidin-4-yl)nicotinamide | FC=1C=C(C=CC1)C1=NC=C(C(=O)NC2CCN(CC2)C2=C3N=CN(C3=NC=N2)C(CC)CO)C=C1 | C26H28FN7O2
